US07842701B2
2-[3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)-2-methylphenoxy]-N-(methylsulfonyl)acetamide
A mixture of [3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)-2-methylphenoxy]acetic acid (64 mg), methanesulfonamide (50 mg), 4-(dimethylamino)pyridine (25 mg), (3-dimethylaminopyropyl)ethylcarbodiimide hydrochloride (40 mg) and N,N-dimethylformamide (6 ml) was stirred at room temperature for 2 days. The reaction mixture was concentrated under reduced pressure. To the residue was added water, and then pH of the residue was adjusted to about 2 by adding a 1N hydrochloric acid. The precipitated solid was collected by filtration, washed with water, and dried to obtain the target compound (29 mg).

reactant | [3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)-2-methylphenoxy]acetic acid | 64 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C=2C(=C(OCC(=O)O)C=CC2)C | C19H16N4O4
reactant | methanesulfonamide | 50 mg | CS(=O)(=O)N | CH5NO2S
catalyst | 4-(dimethylamino)pyridine | 25 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 2-[3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)-2-methylphenoxy]-N-(methylsulfonyl)acetamide | 29 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C=2C(=C(OCC(=O)NS(=O)(=O)C)C=CC2)C | C20H19N5O5S
